US07833632B2
In an argon atmosphere, 10 g (29 mmol) of 1-(4-bromophenyl)-phenyl-1H-benzimidazole were dissolved into 100 mL of dehydrated THF, and the temperature of the solution was cooled to −78° C. Then, 20 mL of n-butyllithium (in hexane, 1.6 mol/L) were dropped. After the mixture had been stirred at −78° C. for 1 hour, the temperature of the mixture was increased to 0° C. The temperature of the mixture was cooled to −78° C. again, and 9.7 mL (87 mmol) of trimethoxyborane were dropped. The mixture was stirred at −78° C. for 1 hour, and was then stirred at room temperature for 2 hours. 100 mL of 10-mass % hydrochloric acid were added, and the whole was stirred for 1 hour, followed by filtration. The organic layer of the filtrate was washed with a saturated sodium chloride solution and dried with magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by means of silica gel column chromatography to obtain 4.2 g of 4-(2-phenyl-1H-benzimidazol-1-yl)phenylboronic acid (46% yield).

reactant | 1-(4-bromophenyl)-phenyl-1H-benzimidazole | 29 mmol, 10 g | BrC1=CC=C(C=C1)C1(CC=CC=C1)N1C=NC2=C1C=CC=C2 | C19H15BrN2
reactant | n-butyllithium | 1.6 mol/L, 20 mL | C(CCC)[Li]
reactant | trimethoxyborane | 87 mmol, 9.7 mL | COB(OC)OC | C3H9BO3
reactant | hydrochloric acid | Cl | ClH
reactant | THF | 100 mL | C1CCOC1 | C4H8O
product | 4-(2-phenyl-1H-benzimidazol-1-yl)phenylboronic acid | 4.2 g, 46% yield | C1(=CC=CC=C1)C1=NC2=C(N1C1=CC=C(C=C1)B(O)O)C=CC=C2 | C19H15BN2O2
